US06002008
6,7-Dimethoxy-4-(pyridin-3-ylamino)-quinoline-3-carbonitrile
Using an analogous procedure to that described in Example 286, 248.7 mg (1 mmol) of 4-chloro-6,7-dimethoxy-3-quinolinecarbonitrile in 15 mL of 2-ethoxyethanol and in the presence of 115.6 mg (1 mmol) of pyridine hydrochloride was reacted with 112.9 mg (1.2 mmol) of 3-amino-pyridine to give 60.6 mg (19.8%) of the product as an orange solid, m.p. 231-233° C., mass (electrospray, m/e): M+H 306.8.

reactant | 4-chloro-6,7-dimethoxy-3-quinolinecarbonitrile | 1 mmol, 248.7 mg | ClC1=C(C=NC2=CC(=C(C=C12)OC)OC)C#N | C12H9ClN2O2
reactant | pyridine hydrochloride | 1 mmol, 115.6 mg | Cl.N1=CC=CC=C1
reactant | 3-amino-pyridine | 1.2 mmol, 112.9 mg | NC=1C=NC=CC1 | C5H6N2
solvent | 2-ethoxyethanol | 15 mL | C(C)OCCO | C4H10O2
product | 6,7-Dimethoxy-4-(pyridin-3-ylamino)-quinoline-3-carbonitrile | 60.6 mg, 19.8% | COC=1C=C2C(=C(C=NC2=CC1OC)C#N)NC=1C=NC=CC1 | C17H14N4O2
